US04027040
Using the procedure of Step B of Example 1, n-pentyl iodide and triphenylphosphine were reacted to obtain n-pentyl-triphenylphosphonium iodide melting at 174° C.

reactant | n-pentyl iodide | C(CCCC)I | C5H11I
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | n-pentyl-triphenylphosphonium iodide | [I-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H26P.HI/c1-2-3-13-20-24(21-14-7-4-8-15-21,22-16-9-5-10-17-22)23-18-11-6-12-19-23;/h4-12,14-19H,2-3,13,20H2,1H3;1H/q+1;/p-1
